US08067420B2
1-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3-(2-(pyridin-2-yl)-ethylthio)pyrazin-2(1H)-one
Following the procedures described in parts A-D of example 134, 2-methoxy-4-nitrophenol was converted to 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrazine-2,3(1H,4H)-dione. A solution of 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrazine-2,3(1H,4H)-dione prepared in Part ? (2.28 g, 7.44 mmol), EtN(iPr)2 (3.9 mL, 22.3 mmol), PyBOP (6.78 g, 13.0 mmol) in DMF (35 mL) was stirred at ambient temperature for 1.5 h. After addition of 2-pyridylethyl mercaptan (1.24 g, 8.93 mmol), the reaction was stirred at ambient temperature. After stirring overnight the reaction mixture was partially concentrated under reduced pressure, quenching by addition of aq. NaHCO3 and extracted with EtOAc. The EtOAc extracts were washed with brine, dried over MgSO4 and concentrated. Chromatography on silica employing a gradient elution with 2.5-10% methanol/methylene chloride, followed by chromatography on silica eluting with EtOAc, and trituration with EtOAc/Hexanes afforded the desired product 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one (2.15 g, 68% yield).

reactant | 2-methoxy-4-nitrophenol | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrazine-2,3(1H,4H)-dione | OC(COC1=C(C=C(C=C1)N1C(C(NC=C1)=O)=O)OC)(C)C | C15H18N2O5
reactant | EtN(iPr)2 | 22.3 mmol, 3.9 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 13.0 mmol, 6.78 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-pyridylethyl mercaptan | 8.93 mmol, 1.24 g | N1=C(C=CC=C1)CCS | C7H9NS
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3-(2-(pyridin-2-yl)ethylthio)pyrazin-2(1H)-one | 2.15 g, 68% yield | OC(COC1=C(C=C(C=C1)N1C(C(=NC=C1)SCCC1=NC=CC=C1)=O)OC)(C)C | C22H25N3O4S
